US07220862B2
(3,4-Dinitro-phenyl)-methanol
Borane-tetrahydrofuran complex (1M in tetrahydrofuran, 800 mL, 800 mmol) was added at −20° C. over 45 min to a solution of 3,4-dinitrobenzoic acid (93.5 g, 441 mmol) in tetrahydrofuran (300 mL). The resulting mixture was stirred at −20° C. for 1 h and then warmed to room temperature and stirred overnight. It was quenched by the addition of 32 mL of 1:1 acetic acid/water. Solvents were removed in vacuo and the residue was poured into an ice-cold 1000 mL of sat. sodium bicarbonate with vigorous stirring over 15 min. The mixture was extracted with ethyl acetate (3×500 mL). The combined organic layers were washed with sat. sodium bicarbonate, brine and dried over sodium sulfate. After filtration, solvents were removed to afford the title compound as a light yellow solid (100%). 1H-NMR (CDCl3, 500 MHz) δ 7.91(d, J=8.0Hz, 1H), 7.89 (s, 1H), 7.71 (dd, J=8.5, 1.0Hz, 1H), 4.87 (s, 2H), 2.30 (s, 1H).

reactant | Borane tetrahydrofuran | 800 mmol, 1M, 800 mL | B.O1CCCC1
reactant | 3,4-dinitrobenzoic acid | 441 mmol, 93.5 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C7H4N2O6
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | (3,4-Dinitro-phenyl)-methanol | 100% | [N+](=O)([O-])C=1C=C(C=CC1[N+](=O)[O-])CO | C7H6N2O5
